US07560596B2
Synthesis of 4′-cyano-4-hydroxy-biphenyl-3-carboxylic acid (FIG. 3, Entry 4)
The general procedure described in Example 3 was used with 5-chloro-2-hydroxy-benzoic acid (173 mg, 1.00 mmol), 4-cyanophenylboronic acid (176 mg, 1.20 mmol), Pd(OAc)2 (2.2 mg, 0.010 mmol, 1 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (10.0 mg, 0.020 mmol, 2 mol %), K2CO3 (552 mg, 4.00 mmol), water (2.0 mL), 12 h, 80° C. The product was isolated as a white solid (220 mg, 92%). Mp=227° C. 1H NMR (400 MHz, d4-MeOH) δ: 8.11 (d, 1H, J=2.4 Hz), 7.81-7.70 (m, 5H), 7.02 (d, 1H, J=8.4 Hz). 13C NMR (125 MHz, d4-MeOH) δ: 173.2, 163.5, 145.5, 135.4, 134.0, 131.2, 130.1, 128.3, 120.1, 119.4, 114.6, 111.5. IR (neat, cm−1): 3429, 2229, 1667, 750. Anal. Calcd for C14H9NO3: C, 70.29; H, 3.79. Found: C, 69.96; H, 3.52.

reactant | 5-chloro-2-hydroxy-benzoic acid | 1.00 mmol, 173 mg | ClC=1C=CC(=C(C(=O)O)C1)O | C7H5ClO3
reactant | 4-cyanophenylboronic acid | 1.20 mmol, 176 mg | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | K2CO3 | 4.00 mmol, 552 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.010 mmol, 2.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.020 mmol, 10.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 2.0 mL | O | H2O
product | 4′-cyano-4-hydroxy-biphenyl-3-carboxylic acid | 220 mg, 92% | C(#N)C1=CC=C(C=C1)C1=CC(=C(C=C1)O)C(=O)O | C14H9NO3
